US07241785B2
A mixture of methyl (3-hydroxy-1-phenyl-1H-pyrazol-4-yl)acetate (406 mg), 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole (551 mg), potassium carbonate (484 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. A mixture of the obtained colorless crystals, 1N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml) and methanol (4 ml) was stirred at room temperature for 1 hr. 1N Hydrochloric acid (2 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give [3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid (748 mg, yield 88%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 179–180° C.

reactant | methyl (3-hydroxy-1-phenyl-1H-pyrazol-4-yl)acetate | 406 mg | OC1=NN(C=C1CC(=O)OC)C1=CC=CC=C1 | C12H12N2O3
reactant | 4-(4-chloromethyl-2-methoxyphenoxymethyl)-2-(2-furyl)-5-methyloxazole | 551 mg | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2OC=CC2)C=C1)OC | C17H16ClNO4
reactant | potassium carbonate | 484 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [3-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-methoxybenzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid | 748 mg, yield 88% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2CC(=O)O)C2=CC=CC=C2)C=C1)OC)C | C28H25N3O7
